US04588719
5-Methoxybenzocyclobutene-1-carboxylic acid
1-Cyano-5-methoxybenzocyclobutene (29 g) is stirred with saturated KOH in ethanol (180 ml) for about 12 hours under nitrogen at RT. Water (60 ml) is added to the reaction mixture which is refluxed for about 3 hours. The mixture is cooled to RT, diluted with water, washed with ether and the aqueous layer acidified forming an oil. The oil is dissolved in ether and the ethereal solution washed, dried over Na2SO4, filtered and evaporated in vacuo affording the desired product as an oil.

reactant | 1-Cyano-5-methoxybenzocyclobutene | 29 g | C(#N)C1CC=2C1=CC(=CC2)OC | C10H9NO
reactant | KOH | [OH-].[K+]
reactant | water | O | H2O
reactant | Water | 60 ml | O | H2O
solvent | ethanol | 180 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 5-Methoxybenzocyclobutene-1-carboxylic acid | COC=1C=CC2=C(C(=C2)C(=O)O)C1 | C10H8O3
